US08039460B2
Step A: Benzyl 4-[3-bromo-1-(ethoxycarbonyl)but-3-en-1-yl]piperidine-1-carboxylate
Lithium hexamethyldisilylazide (1.0 M in THF; 7.20 mL, 7.20 mmol) was added to solution of benzyl 4-(2-ethoxy-2-oxoethyl)piperidine-1-carboxylate (2.0 g, 6.55 mmol) in tetrahydrofuran (30 mL) at −78° C. After 40 min, 2,3-dibromoprop-1-ene (0.70 mL, 7.20 mmol) was added. After 2 h, the reaction mixture was warmed to ambient temperature. After 18 h, the mixture was quenched with saturated ammonium chloride and extracted with ethyl acetate (2×). The combined organic extracts were dried over magnesium sulfate, filtered and concentrated. Purification by silica gel chromatography (80% hexanes/ethyl acetate→40% hexanes/ethyl acetate) gave the title compound (603 mg). MS 424.0 (M).

reactant | benzyl 4-(2-ethoxy-2-oxoethyl)piperidine-1-carboxylate | 6.55 mmol, 2.0 g | C(C)OC(CC1CCN(CC1)C(=O)OCC1=CC=CC=C1)=O | C17H23NO4
reactant | 2,3-dibromoprop-1-ene | 7.20 mmol, 0.70 mL | BrC(=C)CBr | C3H4Br2
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
product | Benzyl 4-[3-bromo-1-(ethoxycarbonyl)but-3-en-1-yl]piperidine-1-carboxylate | 603 mg | BrC(CC(C(=O)OCC)C1CCN(CC1)C(=O)OCC1=CC=CC=C1)=C | C20H26BrNO4
